US04822805
A mixture of 1-hydroxy-2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole (9.7 g) and triethyl phosphite (8.9 g) in N,N-dimethylformamide (100 ml) was stirred at 80°-90° C. for one hour. The reaction mixture was poured into water and the resultant mixture was stirred at ambient temperature for one hour. The precipitate was collected by filtration and washed with water and ethyl acetate and dried to give 2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole (7.6 g).

reactant | 1-hydroxy-2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole | 9.7 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)OC | C16H13ClN4O4
reactant | triethyl phosphite | 8.9 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole | 7.6 g | COC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C=1NC(=C(N1)C)C=1C=NC=CC1 | C16H13ClN4O3
